US04379154
A solution of pyrid-2-ylmethyl 4-chlorobutyl sulphide (82 g) in anhydrous tetrahydrofuran (100 cc) is added dropwise, in the course of 15 minutes and whilst keeping the temperature below 30° C., to a solution of potassium tert.-butoxide (66 g) in a mixture of anhydrous hexamethylphosphorotriamide (100 cc) and anhydrous tetrahydrofuran (530 cc). After stirring for 1 hour at a temperature of about 20° C., potassium tert.-butoxide (20 g) is added and stirring is continued for 45 minutes at the same temperature. The reaction mixture is added to a mixture of distilled water (1000 cc) and diethyl ether (600 cc); after decantation, the aqueous phase is extracted twice with diethyl ether (400 cc in total). The ether extracts are combined, washed three times with distilled water (3000 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated under reduced pressure (20 mm Hg; 2.7 kPa) at 35° C. 2-(Pyrid-2-yl)-tetrahydrothiopyran (50.6 g) is thus obtained in the form of a brown oil.

reactant | pyrid-2-ylmethyl 4-chlorobutyl sulphide | 82 g | ClCCCCSCC1=NC=CC=C1 | C10H14ClNS
reactant | potassium tert.-butoxide | 66 g | CC(C)([O-])C.[K+]
reactant | hexamethylphosphorotriamide | 100 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | potassium tert.-butoxide | 20 g | CC(C)([O-])C.[K+]
reactant | water | 1000 cc | O | H2O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 530 cc | O1CCCC1 | C4H8O
solvent | diethyl ether | 600 cc | C(C)OCC | C4H10O
product | 2-(Pyrid-2-yl)-tetrahydrothiopyran | 50.6 g | N1=C(C=CC=C1)C1SCCCC1 | C10H13NS
